US03991068
4-((3,6-dichloro-2-pyridinyl)methylthio)benzenamine
p-Aminothiophenol (6.25 grams; 0.05 mole) was dissolved in 40 ml. of dimethylsulfoxide and powdered dry sodium hydroxide (2.0 grams; 0.05 mole) added thereto. The resulting mixture was warmed slightly, stirred and an additional 20 ml. of dimethylsulfoxide added thereto to clear the solution. A solution of 3,6-dichloro-2-chloromethylpyridine (8.6 grams; 0.05 mole) in 20 ml. of dimethylsulfoxide was added thereto slowly, with stirring, over a period of about one hour. The temperature of the reaction mixture increased to about 30°-45° C. during the addition. Following the completion of the addition, the reaction mixture was cooled and poured over ice and allowed to stand for about 15 hours. The aqueous layer was then decanted and the residue extracted with 5-500 ml. portions of hexane and the product precipitate recovered therefrom. Recrystallization of the precipitate from benzene gave the desired N-(4-((3,6-dichloro-2-pyridinyl)methylio)benzenamine compound as a crystalline solid having a melting point of 110°-111° C.

reactant | p-Aminothiophenol | 0.05 mole, 6.25 grams | NC1=CC=C(C=C1)S | C6H7NS
reactant | sodium hydroxide | 0.05 mole, 2.0 grams | [OH-].[Na+]
reactant | 3,6-dichloro-2-chloromethylpyridine | 0.05 mole, 8.6 grams | ClC=1C(=NC(=CC1)Cl)CCl | C6H4Cl3N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-((3,6-dichloro-2-pyridinyl)methylthio)benzenamine | ClC=1C(=NC(=CC1)Cl)CSC1=CC=C(C=C1)N | C12H10Cl2N2S
